data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
253,276,[CH3:13][C-:14]([CH3:15])[N+:16]#[C:17][C:18]#[N:19].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:14]([CH3:13])([CH3:15])[N:16]=[C:17]2[C:18]#[N:19],water,298.15,21.61465267997636,-33.70122153530438
3131,3526,[CH3:6][NH:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[N+:13]([CH3:14])[NH-:15].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([C:11]#[N:12])[N:13]([CH3:14])[NH:15]1,water,298.15,70.09852244538422,67.53281696419715
5157,5855,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[N:15]#[C:16][C-:17]([N+:18]#[C:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:17]([C:16]#[N:15])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:18]=[C:19]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,9.63692064944434,-22.647458835115383
4493,5126,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][CH-:16][C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:16]([C:17]#[N:18])[O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,6.2453887462916144,-41.224829431407215
4499,5132,[CH3:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[O+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])([C:14]#[N:15])[O:16][C:17]1([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,22.63102041464666,-20.495403222317105
2449,2717,[CH3:18][C:19](=[O:20])[c-:21]1[c:22](=[O:23])[o:24][c:25](-[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[n+:32]1[CH3:33].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:25]1([c:26]3[cH:27][cH:28][cH:29][cH:30][cH:31]3)[O:24][C:22](=[O:23])[C:21]2([C:19]([CH3:18])=[O:20])[N:32]1[CH3:33],water,298.15,23.928537353418108,-10.361577554048509
5044,5732,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([NH+:14]=[C:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[C:25](=[O:26])[NH:27][CH3:28].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:25](=[O:26])[NH:27][CH3:28])[NH:14][C:15]1([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,25.30253095258216,-15.500946145293272
310,337,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[O+:17][N-:18][C:19]#[N:20].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[N:18]([C:19]#[N:20])[O:17][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,11.760340281524826,-59.54948013530012
2247,2492,[CH3:18][O:19][C:20](=[O:21])[C-:22]([CH3:23])[O+:24]=[C:25]([C:26]#[N:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH2:14][CH2:15][CH:16]1[CH2:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH2:14][CH2:15][CH:16]1[CH2:17]3)[C:22]([C:20]([O:19][CH3:18])=[O:21])([CH3:23])[O:24][C:25]2([C:26]#[N:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,14.647732532112403,-25.21473354174148
2742,3048,[CH3:25][C:26](=[O:27])[C-:28]([NH+:29]=[CH:30][c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[C:37]([CH3:38])=[O:39].[F:1][C:2]([F:3])([F:4])[CH:5]1[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1>>[F:1][C:2]([F:3])([F:4])[CH:5]1[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[CH:30]([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[NH:29][C:28]2([C:26]([CH3:25])=[O:27])[C:37]([CH3:38])=[O:39],water,298.15,24.10180361593841,-28.61818074243881
3957,4524,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C:7](=[O+:8][C-:9]([C:10]([CH3:11])=[O:12])[C:13](=[O:14])[O:15][CH3:16])[C:17](=[O:18])[O:19][CH3:20]>>[CH2:1]1[CH2:2][C:9]([C:10]([CH3:11])=[O:12])([C:13](=[O:14])[O:15][CH3:16])[O:8][C:7]1([C:5]([O:4][CH3:3])=[O:6])[C:17](=[O:18])[O:19][CH3:20],water,298.15,6.950039694306987,-57.162012412236365
